R1 Vin N002 100k
R2 N001 Vout {(1-t)*250k}
R3 Vout N003 {t*250k}
R4 N003 N004 {b*250k}
R5 N004 0 {l*10k}
C2 N003 N002 100n
C3 N004 N002 47n
V1 Vin 0 AC 1
C1 N001 Vin 250p
.param b=0.99
.param l=0.99
.param t=0.99
* Parameters:\nt: Treble\nl: Mid\nb: Bass
.ac oct 24 20 20000
* .step param t list 0.01 0.5 0.99
* .step param b list 10E-05 0.5 0.99
* .step param l list 10E-05 0.5 0.99
.backanno
.end
